reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[C:4](\[C:5]([H:14])([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:12])[H:17],67.0047476817813
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2]=[C:3]([C@@:4]1([H:9])[C:5]([H:10])([H:11])[O:6]1)[H:8])[H:7],81.8458332443037
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]([O:5][H:16])([H:15])[N:7]([H:14])[C:6]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],59.31419595280681
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[N:3](=[C:4]([H:10])[H:11])[H:9].[O:1]=[C:2]([C:7](=[C:6]=[C:5]([H:12])[H:13])[H:14])[H:8],64.5416402513809
[C:1]([N:2]([C:3](=[C:4]=[N:5][C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],45.785526931427306
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:10].[H:9][H:14],113.61273656456699
[C+:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([O-:5])[N:6]([H:14])[H:15].[C:1]([H:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],8.259730434580774
[H:6][H:8].[N:1](=[C:2]1\[O:3][C@:4]1([O:5][H:10])[H:9])\[H:7]>>[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7],29.833647750254883
[O:1]([C:2](/[C:3](=[C:4](\[C:5]#[N:6])[H:11])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],68.22083622144996
[C:1]([C@@:2]1([H:10])[C:3](=[O:4])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9].[H:11][H:12]>>[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9],59.005489018480205
[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[N:6][H:13])([H:14])[H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],25.329551313247705
[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]1([O:6][H:9])[H:14]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],76.5297965892517
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])(/[C:4](=[C:5](\[C:6](=[O:7])[H:17])[H:15])[H:14])[H:11])([H:8])([H:9])[H:10].[H:13][H:16],89.26556421788341
[C-:5]#[O+:6].[O:1]=[C:2]([C:3]([N:4]([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7],68.60350329813899
[O:1]=[C:2]([C:3]([N:4]([C:5][H:10])[H:8])([H:6])[H:7])[H:9]>>[O:1]=[C:2]1[C:3]([H:6])([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10],17.4587627712596
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N+:2](=[C:3](/[C+:4]([O-:5])[O-:6])[H:13])[H:11])([H:8])([H:9])[H:10].[C:7]([H:12])([H:14])([H:15])[H:16],82.76047489081009
[C:1]([C:2]([C:3]([C:4]([O:5][C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:4](=[O:5])([H:14])[H:15].[C:6]([H:11])([H:16])([H:17])[H:18],94.9658426586801
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]([C:5][H:13])([O:6][H:12])[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],4.839408631691796
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3](=[C:4]([H:14])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13].[H:9][H:15],95.681508004968
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1]1([H:7])/[C:2](=[C:3](/[C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[O:6]1,92.208505797152
[H:6][H:11].[O:1]([C:2]([C:3]([C:4](=[O:5])[H:12])([H:9])[H:10])([H:7])[H:8])[H:13]>>[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6],50.98056211011961
[O:1]([C:2]([C:3]#[C:4][N+:6]#[C-:5])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],37.1701336276601
[C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:10])([H:12])[H:13].[N:1]([C:2]([O-:3])=[C+:4][H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],5.2164520683787
